US08124606B2
Compound 1: (S)-3-((4-(4-chlorophenyl)piperazin-1-yl)methyl)-6a,7,8,9-tetrahydropyrido[3,2-e]pyrrolo[1,2-a]pyrazin-6(5H)-one:
(S)-3-(hydroxymethyl)-6a,7,8,9-tetrahydropyrido[3,2-e]pyrrolo[1,2-a]pyrazin-6(5H)-one (200 mg, 0.912 mmol), 1-(4-chlorophenyl)piperazine hydrochloride (200 mg, 0.858 mmol), N,N-diisopropylethylamine (DIPEA; 0.50 mL), and (cyanomethyl)trimethylphosphonium iodide (220 mg, 1.08 mmol) were suspended in propionitrile (2 mL) and heated in a closed vial at 90° C. for 4 h. The reaction mixture was diluted with MeOH (2 mL) and purified using preparative scale HPLC (45-95% acetonitrile in water, buffered with NH4HCO3). The fractions containing product were concentrated in vacuo and diluted with water (5 mL). The resulting precipitate was filtered and dried in vacuum to afford the title compound as an off-white solid (135 mg, 40%). 1H NMR (DMSO-d6) δ (ppm): 10.43 (s, 1H), 7.61 (d, J=1.8 Hz, 1H), 7.21 (d, J=8.8 Hz, 2H), 6.98 (d, J=1.8 Hz, 1H), 6.92 (d, J=9.1 Hz, 2H), 3.91-4.06 (m, 1H), 3.51-3.66 (m, 1H), 3.37-3.37 (m, 1H), 3.10 (br. s., 4H), 2.46 (d, J=4.3 Hz, 4H), 2.09-2.26 (m, 1H), 1.80-2.03 (m, 3H); [M+H] calc'd for C21H24ClN5O, 398. found, 398; melting point 265-268° C.

reactant | (S)-3-(hydroxymethyl)-6a,7,8,9-tetrahydropyrido[3,2-e]pyrrolo[1,2-a]pyrazin-6(5H)-one | 0.912 mmol, 200 mg | OCC1=CC=2NC([C@H]3N(C2N=C1)CCC3)=O | C11H13N3O2
reactant | 1-(4-chlorophenyl)piperazine hydrochloride | 0.858 mmol, 200 mg | Cl.ClC1=CC=C(C=C1)N1CCNCC1
reactant | N,N-diisopropylethylamine | 0.50 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | (cyanomethyl)trimethylphosphonium iodide | 1.08 mmol, 220 mg | [I-].C(#N)C[P+](C)(C)C
solvent | propionitrile | 2 mL | C(CC)#N | C3H5N
solvent | MeOH | 2 mL | CO | CH4O
product | (S)-3-((4-(4-chlorophenyl)piperazin-1-yl)methyl)-6a,7,8,9-tetrahydropyrido[3,2-e]pyrrolo[1,2-a]pyrazin-6(5H)-one | 135 mg, 40% | ClC1=CC=C(C=C1)N1CCN(CC1)CC1=CC=2NC([C@H]3N(C2N=C1)CCC3)=O | C21H24ClN5O
